US06362177B1
To a solution of 1-(3-amino-4-hydroxybenzyl)-4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]piperidine (20.0 mg, 0.035 mmol) in methanol (1 mL) was added 4 N HCl in dioxane (0.50 mL) and the solution was stirred at room temperature overnight. After the solution was concentrated, the residue was dissolved in methanol, loaded onto Varian™ SCX column, washed with CH3OH (5 mL×2), and eluted off using 2 N NH3 in CH3OH (5 mL). Concentration afforded 4-[{N-(2-amino-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(3-amino-4-hydroxybenzyl)piperidine (Compound No. 2141) (17.6 mg, quant.). The purity was determined by RPLC/MS (85%); ESI/MS m/e 448.3 (M++H, C22H27F2N5O3).

reactant | 1-(3-amino-4-hydroxybenzyl)-4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]piperidine | 0.035 mmol, 20.0 mg | NC=1C=C(CN2CCC(CC2)CNC(CNC(C2=C(C=C(C(=C2)F)F)NC(=O)OC(C)(C)C)=O)=O)C=CC1O | C27H35F2N5O5
reactant | HCl | 4 N | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
solvent | dioxane | 0.50 mL | O1CCOCC1 | C4H8O2
product | 4-[{N-(2-amino-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(3-amino-4-hydroxybenzyl)piperidine | NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=CC(=C(C=C2)O)N)C=C(C(=C1)F)F | C22H27F2N5O3
